US05159067
3'-Azido-2',3'-Dideoxyuridine-5'-Monophosphate
A freshly prepared pyridinium salt of 2-cyanoethylphosphate (8.05 g, 23.64 mmol) was added to a solution of 3'-azido-2',3'-dideoxyuridine (2.50 g, 9.7 mmol) in dry pyridine (50 ml) and evaporated to dryness at 30° C. The concentrated residue was dissolved in pyridine (50 ml) and the solution again evaporated to dryness. The process was repeated twice and then the residue obtained was dissolved in dry pyridine (50 ml). Dicyclohexylcarbodiimide (8.08 g, 39.1 mmol) was added to the solution. The reaction mixture was stirred for 48 hours at room temperature. Water (10 ml) was added and the solution was then filtered to remove dicyclohexylurea. The clear solution was evaporated to dryness. The residue obtained was then dissolved in 1N KOH (250 ml) and heated for 15 minutes at 100° C. The cold solution was passed through a column of acidic Dowex 50 (H+), the effluent brought to pH 9 and passed through a column of Dowex (1×4 Cl-). A linear gradient elution of 0.015N HCl to 0.15N HCl resulted in 3'-azido-2',3'-dideoxyuridine-5'-monophosphate with a 73% yield.

reactant | 2-cyanoethylphosphate | 23.64 mmol, 8.05 g | C(#N)CCOP(=O)([O-])[O-]
reactant | 3'-azido-2',3'-dideoxyuridine | 9.7 mmol, 2.50 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11N5O4
reactant | Dicyclohexylcarbodiimide | 39.1 mmol, 8.08 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 10 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | KOH | 1N, 250 ml | [OH-].[K+]
product | 3'-Azido-2',3'-Dideoxyuridine-5'-Monophosphate | 73% yield | P(=O)(O)(O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)N=[N+]=[N-] | C9H12N5O7P
